US07776857B2
To a mixture of 4-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenylthio)quinolin-6-ol (0.054 g, 0.11 mmol) and potassium carbonate (0.059 g, 0.43 mmol) in DMF was added 1-bromo-2-(2-methoxyethoxy)ethane (0.057 ml, 0.43 mmol), the resulting mixture was stirred at 80° C. for 1 h. The crude product was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-60% (EtOAc-DCM) to afford 4-(4-chlorophenyl)-N-(4-(6-(2-(2-methoxyethoxy)ethoxy)quinolin-4-ylthio)phenyl)phthalazin-1-amine as a light yellow solid. MS: m/z [M+H]+. 610.0 Calc'd for C34H29ClN4O3S: 609.1.

reactant | 4-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenylthio)quinolin-6-ol | 0.11 mmol, 0.054 g | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC=C(C=C12)O | C29H19ClN4OS
reactant | potassium carbonate | 0.43 mmol, 0.059 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 0.43 mmol, 0.057 ml | BrCCOCCOC | C5H11BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-chlorophenyl)-N-(4-(6-(2-(2-methoxyethoxy)ethoxy)quinolin-4-ylthio)phenyl)phthalazin-1-amine | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC=C(C=C12)OCCOCCOC | C34H29ClN4O3S
